US06034246
2-(4'-Aminophenyl)benzoxazole (0.28 g, 1.33 mmol) was treated with chloroacetyl chloride (0.5 ml) in benzene (15 ml) according to the procedure described above for preparation of 2-(4'-chloroacetamidophenyl)benzothiazole. 2-(4'-Chloroacetamidophenyl)benzoxazole hydrochloride was obtained (0.31 g, 72%).

reactant | 2-(4'-Aminophenyl)benzoxazole | 1.33 mmol, 0.28 g | NC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
reactant | chloroacetyl chloride | 0.5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-(4'-chloroacetamidophenyl)benzothiazole | ClCC(=O)NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C15H11ClN2OS
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 2-(4'-Chloroacetamidophenyl)benzoxazole hydrochloride | Cl.ClCC(=O)NC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | InChI=1S/C15H11ClN2O2.ClH/c16-9-14(19)17-11-7-5-10(6-8-11)15-18-12-3-1-2-4-13(12)20-15;/h1-8H,9H2,(H,17,19);1H
